US07087626B2
4-Chlorobutyryl chloride (57 mL, 510 mmol) is added to a solution of benzophenone hydrazone (100 g, 510 mmol) and pyridine (41 mL, 510 mmol) in anhydrous dichloromethane (520 mL) under nitrogen at a rate that maintains a gentle reflux throughout the addition. The mixture is stirred for 0.5 h and poured into water (1 L). The layers are separated and the organic layer washed with brine, dried (sodium sulfate), filtered, and concentrated in vacuo to yield 4-chloro-butyric acid benzhydrylidene-hydrazide as a residue.

reactant | 4-Chlorobutyryl chloride | 510 mmol, 57 mL | ClCCCC(=O)Cl | C4H6Cl2O
reactant | benzophenone hydrazone | 510 mmol, 100 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)=NN | C13H12N2
reactant | pyridine | 510 mmol, 41 mL | N1=CC=CC=C1 | C5H5N
reactant | water | 1 L | O | H2O
solvent | dichloromethane | 520 mL | ClCCl | CH2Cl2
product | 4-chloro-butyric acid benzhydrylidene-hydrazide | C(C1=CC=CC=C1)(C1=CC=CC=C1)=NNC(CCCCl)=O | C17H17ClN2O
